US07737166B2
4-Cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-(thiophen-2-yl)-1,3-benzoxazole-2-carboxamide (#145)
4-Cyano-7-fluoro-N,N,5-trimethyl-6-(thiophen-2-yl)-1,3-benzoxazole-2-carboxamide (I-308) (160 mg, 0.49 mmol) was dissolved in dimethyl sulfoxide (8.7 ml), and at room temperature, triethylamine (81 μl, 0.58 mmol) was added. The solution was gradually heated from room temperature up to 150° C., and a solution of (3S)-3-(methylamino)pyrrolidine (62 μl, 0.58 mmol) dissolved in dimethyl sulfoxide (1 ml) was added all at a time. After stirred at the same temperature for 50 minutes, this was cooled to room temperature. The solvent was evaporated away under reduced pressure, and the resulting residue was fractionated with chloroform and saturated brine. The aqueous layer was further fractionated twice with chloroform. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was roughly purified by preparative TLC (eluent, chloroform:7 N ammonia/methanol solution=95:5, v/v), and the roughly-purified product was again purified by preparative TLC (eluent, chloroform:methanol=9:1, v/v) to obtain the entitled compound (119 mg, 60%) as a yellow amorphous substance.

reactant | 4-Cyano-7-fluoro-N,N,5-trimethyl-6-(thiophen-2-yl)-1,3-benzoxazole-2-carboxamide | 0.49 mmol, 160 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C=2SC=CC2)C | C16H12FN3O2S
reactant | triethylamine | 0.58 mmol, 81 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(methylamino)pyrrolidine | 0.58 mmol, 62 μl | CN[C@@H]1CNCC1 | C5H12N2
solvent | dimethyl sulfoxide | 8.7 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 4-Cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-(thiophen-2-yl)-1,3-benzoxazole-2-carboxamide | 119 mg, 60% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@H](CC2)NC)C=2SC=CC2)C | C21H23N5O2S
